US20010053776A1
g) 9-(4-Methylthiazol-2-yl)-11-(pyridin-4-yl)-6,7-dihydro-5H-2,7a-diaza-dibenzo[a,c]cyclohepten-8-one
Triphenylphosphine (260 mg, 1.0 mmol) was added to a suspension of 4-(3-hydroxypropyl)-5′-(4-methylthiazol-2-yl)-1′h- [3,2′;3′,4″]terpyridin-6′-one (330 mg, 0.80 mmol) in dry THF (100 ml). Diethyl azodicarboxylate (160 μl, 1.00 mmol) was added dropwise and the reaction stirred at room temperature for 10 minutes. The reaction was poured into water (200 ml) and extracted with EtOAc (3×100 ml). The combined organic extracts were washed with brine (100 ml), dried (MgSO4) and evaporated to afford a yellow solid. The crude was purified by chromatography (5% MeOH/CH2Cl2) and the resulting solid triturated with Et2O to afford the title compound (262 mg, 84%) as yellow needles, m.p. 300-302° C. Anal. Calc. for C22H18N4O.0.25H2O: C, 67.58; H, 4.77; N, 14.33. Found: C, 67.81; H, 4.59; N, 14.41. 1H NMR (360 MHz, CDCl3) δ 2.04-2.11 (m, 1H), 2.53 (s, 3H), 2.53-2.64 (m, 1H), 2.75-2.85 (m, 1H), 2.92 (dd, J=13 and 7, 1H), 3.12 (td, J=14 and 5, 1H), 5.32 (dd, J=14 and 5, 1H), 6.93-6.95 (m, 2H), 7.08 (s, 1H), 7.29 (d, J=5, 1H), 8.03 (s, 1H), 8.47-8.49 (m, 2H), 8.56 (d, J=5, 1H), 8.70 (s, 1H). m/z (ES+) 387 (M++H).

reactant | Triphenylphosphine | 1.0 mmol, 260 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(3-hydroxypropyl)-5′-(4-methylthiazol-2-yl)-1′h- [3,2′;3′,4″]terpyridin-6′-one | 0.80 mmol, 330 mg | OCCCC1=C(C=NC=C1)C=1NC(C(=CC1C1=CC=NC=C1)C=1SC=C(N1)C)=O | C22H20N4O2S
reactant | Diethyl azodicarboxylate | 1.00 mmol, 160 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | water | 200 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9-(4-Methylthiazol-2-yl)-11-(pyridin-4-yl)-6,7-dihydro-5H-2,7a-diaza-dibenzo[a,c]cyclohepten-8-one | 262 mg, 84% | CC=1N=C(SC1)C=1C(N2C(C3=C(CCC2)C=CN=C3)=C(C1)C1=CC=NC=C1)=O | C22H18N4OS
